US04782155
73 g (0.172 mol) of 3,4-bis(benzyloxy)benzaldehyde was dissolved in 500 ml of benzene, and 25 ml (0.23 mol) of aminoacetaldehyde diethylacetal was added thereto. The mixture was stirred under reflux for 5 hours to remove the resulting water. The reaction solution was concentrated under reduced pressure to obtain a residue of 2-(N-[3,4-bis(benzyloxy)benzyliden]amino)acetaldehyde diethylacetal. This residue was dissolved in 700 ml of methanol, and 6.0 g (0.16 mol) of sodium borohydride was added thereto at room temperature. The mixture was stirred for 15 minutes. The reaction solution was concentrated under reduced pressure. The residue was dissolved in ethyl acetate, then washed with a saturated a sodium chloride aqueous solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain a residue of 2-{N-[3,4-bis(benzyloxy)benzyl]amino}acetaldehyde diethylacetal. This residue was dissolved in 600 ml of dry tetrahydrofuran, and 39.8 g (0.21 mol) of p-toluenesulfonyl chloride and 59 ml (0.42 mol) of triethylamine were added. The mixture was stirred at room temperature for 17.5 hours. The reaction solution was concentrated under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (10% ethyl acetate/hexane), whereby 70 g (yield: 70.7%) of 2-{N-(P-tolylsulfonyl)-N-[3,4-bis(benzyloxy)benzyl]amino}acetaldehyde diethyl acetal was obtained.

reactant | 3,4-bis(benzyloxy)benzaldehyde | 0.172 mol, 73 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C21H18O3
reactant | aminoacetaldehyde diethylacetal | 0.23 mol, 25 ml | C(C)OC(CN)OCC | C6H15NO2
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 2-(N-[3,4-bis(benzyloxy)benzyliden]amino)acetaldehyde diethylacetal | C(C)OC(CN=CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC | C27H31NO4
